US04160085
One dissolves p-nitrobenzyl α-[3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl -α-(1-hydroxyethylidene)acetate (940 mg) in tetrahydrofuran (14 ml), adds triethylamine (0.61 ml) and methanesulfonyl chloride (0.172 ml), and stirs for 1 hour ε+ -15° to -20° C. To the produced solution of p-nitrobenzyl α-[3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-methanesulfonyloxyethylidene)acetate, one adds morpholine (0.209 ml), stirs for 1.5 hours at -15° to -20° C., and for 2 hours at 0° C., to give a solution of p-nitrobenzyl α-[3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-morpholinoethylidene)acetate, cools to -15° C., adds pyridine (0.174 ml) followed by after 5 minutes a solution of bromine in carbon tetrachloride (1 mole/liter: 2.1 ml), stirs for 15 minutes at the same temperature, pours into water (50 ml), and extracts with ethyl acetate (50 ml). The extract solution is washed with water, dried over magnesium sulfate, and evaporated to give residue (1.7 g). Purification of the residue by chromatography over silica gel containing 10% water gives from the fractions eluted with a mixture of benzene and ethyl acetate (2:1) p-nitrobenzyl α-[3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(2-bromo-1-morpholinoethylidine)acetate (1.109 g; Yield: 89.7%) and p-nitrobenzyl α-[3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(2-bromo-1-morpholinoethyl)-α-methanesulfonylacetate (85 mg; Yield: 7.7%).

reactant | 3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl -α-(1-hydroxyethylidene)acetate | 940 mg | O(C1=CC=CC=C1)CC1=NC2C(N(C2S1)C(C(=O)[O-])=C(C)O)=O
reactant | methanesulfonyl chloride | 0.172 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | p-nitrobenzyl α-[3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-methanesulfonyloxyethylidene)acetate | O(C1=CC=CC=C1)CC1=NC2C(N(C2S1)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)OS(=O)(=O)C)=O | C23H21N3O9S2
reactant | morpholine | 0.209 ml | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.61 ml | C(C)N(CC)CC | C6H15N
product | p-nitrobenzyl α-[3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-morpholinoethylidene)acetate | O(C1=CC=CC=C1)CC1=NC2C(N(C2S1)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)N1CCOCC1)=O | C26H26N4O7S
